US07465815B2
1-(4-Methylphenyl)-2-(2,3,5-trimethylphenoxy)ethanone
Using 2,3,5-trimethylphenol and 2-bromo-1-(4-methylphenyl)ethanone, the title compound was synthesized in the same manner as in Reference Example 159. Yield 75%. Melting point: 94-95° C. (methanol).

reactant | 2,3,5-trimethylphenol | CC1=C(C=C(C=C1C)C)O | C9H12O
reactant | 2-bromo-1-(4-methylphenyl)ethanone | BrCC(=O)C1=CC=C(C=C1)C | C9H9BrO
solvent | methanol | CO | CH4O
product | 1-(4-Methylphenyl)-2-(2,3,5-trimethylphenoxy)ethanone | Yield 75% | CC1=CC=C(C=C1)C(COC1=C(C(=CC(=C1)C)C)C)=O | C18H20O2
